US07220810B2
2-Tricyclo[3.3.1.13,7]decanol (25 g), triethylamine (28 g) and toluene (250 g) were charged in a four-necked 500 ml flask, and then chlorodimethylvinylsilane (30 g) was dropwise added to the mixture at 40° C. over one hour while well stirring. The mixture was stirred at 40° C. for 7 hours with monitoring the progress of the reaction by gas chromatography. After the completion of the reaction, a 4% hydrochloric acid (300 ml) was added to the reaction mixture, and then the mixture was separated. The organic layer was washed with water and concentrated by evaporating off toluene contained in the organic layer, and the residue was distilled under reduced pressure to obtain 2-dimethylvinylsiloxy-tricyclo[3.3.1.13,7]decane having the following structure (40 g):

reactant | 2-Tricyclo[3.3.1.13,7]decanol | 25 g | C12C(C3CC(CC(C1)C3)C2)O | C10H16O
reactant | triethylamine | 28 g | C(C)N(CC)CC | C6H15N
reactant | chlorodimethylvinylsilane | 30 g | Cl[SiH2]C=C(C)C | C4H9ClSi
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | toluene | 250 g | C1(=CC=CC=C1)C | C7H8
product | 2-dimethylvinylsiloxy-tricyclo[3.3.1.13,7]decane | CC(=C[SiH2]OC1C2CC3CC(CC1C3)C2)C | C14H24OSi
